US07414142B2
1-Methyl-5-(3-methyl-1-oxo-2,3-dihydro-1H-inden-5-yl)-1H-pyrrole-2-carbonitrile as an orange solid (0.65 g, 76%) was prepared from 5-bromo-3-methyl-indan-1-one and 1-methyl-2-cyanopyrrole according to the same coupling procedure as described in example 2. MS (ES) m/z 251.2; Anal. Calcd for C16H14N2O: C, 76.78; H, 5.64; N, 11.19. Found: C, 76.49; H, 5.49; N, 11.10. HRMS: calcd for C16H14N2O+H+, 251.1179; found (ESI, [M+H]+), 251.1179.

reactant | 5-bromo-3-methyl-indan-1-one | BrC=1C=C2C(CC(C2=CC1)=O)C | C10H9BrO
reactant | 1-methyl-2-cyanopyrrole | CN1C(=CC=C1)C#N | C6H6N2
product | 1-Methyl-5-(3-methyl-1-oxo-2,3-dihydro-1H-inden-5-yl)-1H-pyrrole-2-carbonitrile | 0.65 g, 76% | CN1C(=CC=C1C=1C=C2C(CC(C2=CC1)=O)C)C#N | C16H14N2O
